US04649142
To a solution of 3,4-dihydro-1,3-dimethyl-6-(4-hydroxy-3-methoxyphenyl)-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone (0.40 g) in acetone (20 ml) were added potassium carbonate (0.16 g) and ethyl bromoacetate (0.66 ml), and the mixture was refluxed for 10 hours. After being cooled, the mixture was evaporated and suspended in chloroform. The suspension was washed with water, dried over sodium sulfate, and evaporated to give crude oil of 3,4-dihydro-1,3-dimethyl-6-(4-ethoxycarbonylmethoxy-3-methoxyphenyl)-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone (0.67 g). This crude oil was used for the following deesterification without further purification.

reactant | 3,4-dihydro-1,3-dimethyl-6-(4-hydroxy-3-methoxyphenyl)-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone | 0.40 g | CN1C(N(C(C=C1C1=CC(=C(C=C1)O)OC)=NC1=C(C=C(C=C1C)C)C)C)=O | C22H25N3O3
reactant | potassium carbonate | 0.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.66 ml | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3,4-dihydro-1,3-dimethyl-6-(4-ethoxycarbonylmethoxy-3-methoxyphenyl)-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone | 0.67 g | CN1C(N(C(C=C1C1=CC(=C(C=C1)OCC(=O)OCC)OC)=NC1=C(C=C(C=C1C)C)C)C)=O | C26H31N3O5
